.SUBCKT gf180mcu_fd_sc_mcu9t5v0__or2_4 A1 A2 Z VDD VDD VSS VSS
*.PININFO A1:I A2:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=(A1 + A2)
M_i_3_1 Z_neg A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 VSS A1 Z_neg VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 Z_neg A1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 VSS A2 Z_neg VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_3 Z Z_neg VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_2 VSS Z_neg Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 Z Z_neg VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 VSS Z_neg Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_1 net_0_1 A2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_1 Z_neg A1 net_0_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_0 net_0_0 A1 Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_0 VDD A2 net_0_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_3 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_2 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_1 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_0 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
